US07157487B2
In THF (5 ml) was dissolved methyl (4-(2-benzothiazolyl)amino-3-chlorophenyl)acetate (296 mg, 0.89 mmol). To the resulting solution was added 0.5N NaOH (5.0 ml, 2.50 mmol). The resulting mixture was stirred at room temperature for 15 hours. The reaction mixture was poured in ice-1N HCl to acidify the mixture. The crystals thus precipitated were collected by filtration under reduced pressure, washed with water and dried under reduced pressure to give (4-(2-benzothiazolyl)amino-3-chlorophenyl)acetic acid (263 mg, 93%) as a white solid.

reactant | methyl (4-(2-benzothiazolyl)amino-3-chlorophenyl)acetate | 0.89 mmol, 296 mg | S1C(=NC2=C1C=CC=C2)NC2=C(C=C(C=C2)CC(=O)OC)Cl | C16H13ClN2O2S
reactant | NaOH | 2.50 mmol, 0.5N, 5.0 ml | [OH-].[Na+]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | (4-(2-benzothiazolyl)amino-3-chlorophenyl)acetic acid | 263 mg, 93% | S1C(=NC2=C1C=CC=C2)NC2=C(C=C(C=C2)CC(=O)O)Cl | C15H11ClN2O2S
